US08461158B2
A mixture of 1.98 g (5 mmol) of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole, 1.16 g (6.25 mmol) of tert-butyl 1-piperazinecarboxylate, and 1.29 g (10 mmol) of DIPEA in 100 mL of THF was stirred at room temperature for 1 hr, and the solution was concentrated under vacuum. The residue was diluted with water (100 mL) containing 1 mL of acetic acid. The resulting precipitate was collected, washed with water, and dried to give 2.71 g (99% yield) of tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinecarboxylate: mp (MeOH) 221-223° C.; 1H NMR (CDCl3) δ 7.88 (dd, J=8.4, 0.6 Hz, 1H), 7.47 (t, J=53.5 Hz, 1H), 7.35 (t, J=8.2 Hz, 1H), 6.81 (d, J=7.7 Hz, 1H), 4.05 (s, 3H), 3.87 (m, 8H), 3.78 (m, 4H), 3.53 (m, 4H), 1.50 (s, 9H); Anal. Calcd. for C25H32F2N8O4: C, 54.9; H, 5.9; N, 20.5. Found: C, 54.9; H, 5.9; N, 20.5%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole | 5 mmol, 1.98 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2OC)C(F)F | C16H15ClF2N6O2
reactant | tert-butyl 1-piperazinecarboxylate | 6.25 mmol, 1.16 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | DIPEA | 10 mmol, 1.29 g | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperazinecarboxylate | 2.71 g, 99% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2OC)F | C25H32F2N8O4
